US08455657B2
3.0 g of 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid and 1.02 g of 3-hydroxy-2-methylpyrazole are suspended in 20 ml of ethyl acetate and 5.07 ml of 3-methylpyridine under an inert atmosphere and cooled to −25° C. with stirring. 1.24 g of thionyl chloride are then slowly added dropwise such that the temperature always remains below −20° C. Following the complete addition of the thionyl chloride, the mixture is stirred for a further 20 minutes. 40 μl of cold water and 20 ml of methylcyclohexane are then added. The mixture is then stirred for a further 20 minutes at −25° C. The suspension is filtered and washed once with 10 ml of methylcyclohexane and twice with 10 ml of water in each case. Drying gives 3.67 g of (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methoxy-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone (86.5% yield).

reactant | 2-methoxy-3-methylsulfinyl-4-trifluoromethylbenzoic acid | 3.0 g | COC1=C(C(=O)O)C=CC(=C1S(=O)C)C(F)(F)F | C10H9F3O4S
reactant | 3-hydroxy-2-methylpyrazole | 1.02 g | OC=1N(N=CC1)C | C4H6N2O
reactant | 3-methylpyridine | 5.07 ml | CC=1C=NC=CC1 | C6H7N
reactant | thionyl chloride | 1.24 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylcyclohexane | 20 ml | CC1CCCCC1 | C7H14
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 40 μl | O | H2O
product | (5-hydroxy-1-methyl-1H-pyrazol-4-yl)[2-methoxy-3-(methylsulfinyl)-4-(trifluoromethyl)phenyl]methanone | 3.67 g, 86.5% yield | OC1=C(C=NN1C)C(=O)C1=C(C(=C(C=C1)C(F)(F)F)S(=O)C)OC | C14H13F3N2O4S
